US04192880
Preparation of 2-(5-ethylpyridin-2-yl)-benzimidazole
1.1 g. of o-phenylenediamine and 1.3 g. of 2-cyano-5-ethylpyridine were dissolved in 5 ml. of methanol. To the solution was added 0.05 g. of sodium in 1 ml. of methanol. The mixture was refluxed for 2 hours, then acidified with acetic acid and refluxed again for additional 4 hours. The reaction mixture was evaporated.

reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 2-cyano-5-ethylpyridine | C(#N)C1=NC=C(C=C1)CC | C8H8N2
reactant | methanol | CO | CH4O
reactant | sodium | [Na] | Na
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(5-ethylpyridin-2-yl)-benzimidazole | C(C)C=1C=CC(=NC1)C=1NC2=C(N1)C=CC=C2 | C14H13N3
